US09029536B2
D) 3-Methyl-2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]-3H-imidazo[4,5-b]pyridine
A mixture of 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (3.8 g), KOAc (2.9 g), 2-(4-bromophenoxy)-3-methyl-3H-imidazo[4,5-b]pyridine (3.0 g) and Pd(dppf)2Cl2 dichloromethane complex (0.41 g) in THF (30 mL) and DMSO (1.5 mL) was stirred at 80° C. for 4 h under Ar atmosphere. The mixture was diluted with AcOEt and filtered on silica gel conditioned with AcOEt. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) and recrystallization from AcOEt/hexane to give the title compound (1.3 g).

reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 3.8 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 2.9 g | CC(=O)[O-].[K+]
reactant | 2-(4-bromophenoxy)-3-methyl-3H-imidazo[4,5-b]pyridine | 3.0 g | BrC1=CC=C(OC2=NC=3C(=NC=CC3)N2C)C=C1 | C13H10BrN3O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 3-Methyl-2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]-3H-imidazo[4,5-b]pyridine | 1.3 g | CN1C(=NC=2C1=NC=CC2)OC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C | C19H22BN3O3
